US07259266B2
Step 2. Preparation of ethyl 8-(anilinomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 8-(iodomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.14 g, 0.32 mmole) and aniline (0.03 mL, 0.32 mmole) was dissolved in anhydrous DMF (2 mL), the solution was warmed to 90° C. and treated with K2CO3 (0.05 g, 0.39 mmole). The reaction was maintained at 90° C. for 24 hrs, cooled to room temperature, filtered through celite. The filtrate was condensed to give an oil. The oil was purified by flash chromatography (silica gel) with 70% methylene chloride in hexane to give a light yellow oil (0.11 g, 88%): GCMS m/z 391.00 (M+). 1H NMR (CDCl3/400 MHz) 7.70 (s, 1H), 7.19 (m, 3H), 6.94 (s, 1H), 6.74 (m, I1H), 6.65 (m, 2H), 5.77 (q, 1H, J=7.0 Hz), 4.33 (m, 4H), 4.18 (brs, 1H), 2.25 (s, 3H), 1.36 (m, 3H).

reactant | ethyl 8-(iodomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.32 mmole, 0.14 g | ICC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H14F3IO3
reactant | aniline | 0.32 mmole, 0.03 mL | NC1=CC=CC=C1 | C6H7N
reactant | K2CO3 | 0.39 mmole, 0.05 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl 8-(anilinomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.11 g, 88% | N(C1=CC=CC=C1)CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C21H20F3NO3
